US08754068B2
Preparation of (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(4-(isopropylsulfonylcarbamoyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid
To a mixture of propane-2-sulfonamide (18.46 mg, 0.150 mmol), DMAP (0.915 mg, 7.49 μmol) and Hunig's Base (0.065 mL, 0.375 mmol) in DME (2 mL) was added (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-benzyl 9-(4-(chlorocarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (50 mg, 0.075 mmol). The reaction mixture was stirred for 16 hours. LCMS indicated the formation of the desired product. The reaction mixture was quenched with distilled water, extracted with ethyl acetate and concentrated under reduced pressure to give crude intermediate (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-benzyl 9-(4-(isopropylsulfonylcarbamoyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate as a yellow solid. LCMS: m/e 754.60 (M+H)+, 2.36 min (method 7). To this intermediate (50 mg, 0.066 mmol) in EtOAc (2 mL) and MeOH (2.00 mL) was added 10% Pd/C (21.17 mg, 0.020 mmol). The reaction mixture was hydrogentated using a Parr shaker at 40 Psi for 17 hours. LCMS indicated the reaction was completed. The reaction mixture was filtered through a pad of celite and concentrated under reduced. The residue was purified by prep HPLC to provide the desired product, (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(4-(isopropylsulfonylcarbamoyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid, as a white solid (12 mg, 26%). LCMS: m/e 664.48 (M+H)+, 2.18 min (method 7). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 0.91 (s, 6H), 0.96 (s, 3H), 1.00 (d, J=4.27 Hz, 6H), 1.18-1.27 (m, 8H), 1.35-1.55 (m, 13H), 1.60-1.75 (m, 5H), 1.94-2.03 (m, 2H), 2.07-2.14 (m, 1H), 2.22-2.31 (m, 2H), 2.97-3.07 (m, 1H), 3.98-4.08 (m, 1H), 4.61 (s, 1H), 4.74 (s, 1H), 5.28 (d, J=4.88 Hz, 1H), 7.23-7.25 (m, 2H), 7.74 (d, J=8.24 Hz, 2H).

reactant | propane-2-sulfonamide | 0.150 mmol, 18.46 mg | CC(C)S(=O)(=O)N | C3H9NO2S
reactant | Hunig's Base | 0.375 mmol, 0.065 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-benzyl 9-(4-(chlorocarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 0.075 mmol, 50 mg | ClC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CCC3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C44H55ClO3
catalyst | DMAP | 7.49 μmol, 0.915 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DME | 2 mL | COCCOC | C4H10O2
product | (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(4-(isopropylsulfonylcarbamoyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | C(C)(C)S(=O)(=O)NC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CCC3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O)C)C)(C)C | C40H57NO5S
